4
L1 1 0 1E-5
L0203 2 3 1.54797097554421E-4
C0104 1 4 1E-8
C0200 2 0 6.25E-10
K0100 1 0 3 0 7.21311475409836E-1
V0400 4 0 PULSE 0 10000 0 0 0 1 2 1
.TRAN 0.5E-4 1E-8 TETA 0.5 1